US04623650
10-Bromo-9-fluoro-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylic acid
A mixture of ethyl 10-bromo-9-fluoro-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylate (0.2 g, 0.54 mmol) and a 3N hydrochloric acid solution (15 ml) were heated at 100° C. with stirring for 17 hours. The reaction mixture was diluted twofold with water and filtered. The white solid, which was collected, was washed with water, triturated with acetone, and filtered. Drying in vacuo afforded a white powder (142 mg, 77% yield): m.p. >250° C. NMR (5% DMSO-d6/CF3CO2D, 250 MHz): 9.12 (s, 1H), 7.80 (d, 1H, J=8 Hz), 5.10-5.00 (m, 1 H), 4.80-4.70 (m, 1H), 4.60-4.50 (m, 1H), 1.52 (d,3H, J=7 Hz).

reactant | ethyl 10-bromo-9-fluoro-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylate | 0.54 mmol, 0.2 g | BrC=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)OCC)F | C15H13BrFNO4
reactant | hydrochloric acid | 3N, 15 ml | Cl | ClH
solvent | water | O | H2O
product | 10-Bromo-9-fluoro-3-methyl-7-oxo-2,3-dihydro-(7H)-pyrido-(1,2,3-de)-1,4-benzoxazine-6-carboxylic acid | 142 mg, 77% yield | BrC=1C(=CC2=C3N(C(COC31)C)C=C(C2=O)C(=O)O)F | C13H9BrFNO4
